US08076345B2
B) 2-Methoxy-5-vinylpyrimidine
A suspension of methyltriphenylphosphonium bromide (24.8 g, 69.4 mmol) in THF (150 mL) at −78° C. under an atmosphere of nitrogen was added 2.5 M of n-butyllithium in hexane (28 mL, 70 mmol) during a period of 12 mins. The reaction was warmed to room temperature to yield a deep red ylide solution. To the ylide solution, cooled in ice, was introduced 2-methoxypyrimidine-5-carbaldehyde (8 g, 65.6 mmol) in THF (50 mL). The reaction was allowed to reach room temperature and stirred for 3 hours. The result suspension was heated to 60° C. over 30 minutes and then heated at 60° C. for 1 hour. After cooling, the reaction mixture was diluted with water (400 mL) and extracted with EtOAc (2×150 mL). The combined organic layers were washed with brine, dried (MgSO4), and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane 0-30%) to yield title compound.

reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 70 mmol, 28 mL | CCCCCC | C6H14
reactant | 2-methoxypyrimidine-5-carbaldehyde | 65.6 mmol, 8 g | COC1=NC=C(C=N1)C=O | C6H6N2O2
catalyst | methyltriphenylphosphonium bromide | 69.4 mmol, 24.8 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 400 mL | O | H2O
product | 2-Methoxy-5-vinylpyrimidine | COC1=NC=C(C=N1)C=C | C7H8N2O
